Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Syncope  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F with hx of migraines, atypical chest pain and syncope 
who presents with syncope. She notes that she awoke with a HA 
this am similar to her prior HA. She notes poor PO intake all 
day ___ HA and being busy with church work. Stood up to get some 
water from the bathroom and had an episode of syncope preceded 
by slight palpitations and lightheadedness/vertigo. Notes right 
sided chest pain for the last 3 months, non-exertional in 
nature, but none now. Her chest pain and syncope have had an 
extensive w/u in the past, including a negative stress echo on 
___.  
.  
In the ED, initial VS were: 98.2 75 151/95 16 99  
Patient was given 1L NS, Tylenol, and Ibuprofen. Orthostatics 
were negative. EKG non-ischemic. Labs pan black. Admitted for 
syncope.  
.  
On the floor, now chest pain free and feeling well.  
.  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied nausea, 
vomiting, diarrhea, constipation or abdominal pain. No recent 
change in bowel or bladder habits. No dysuria. Denied 
arthralgias or myalgias.  
.  

 
Past Medical History:
Atypical Chest Pain  
Headaches/Migraines  
Depression  
GERD  
 
Social History:
___
Family History:
The patient's mother was deceased while she was very young. She 
believes that her father has diabetes but is unable to confirm 
this. She has no siblings,and her two daughters are healthy.  
 
 
Physical Exam:
Vitals: 97.2, 67, 128/94, 97% RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: AOx3, non-focal  

 
Pertinent Results:
___ 10:30PM BLOOD WBC-6.2 RBC-4.79 Hgb-13.2 Hct-40.4 MCV-84 
MCH-27.6 MCHC-32.8 RDW-14.4 Plt ___
___ 07:10AM BLOOD WBC-5.7 RBC-4.63 Hgb-12.2 Hct-38.0 MCV-82 
MCH-26.4* MCHC-32.2 RDW-14.1 Plt ___
___ 10:30PM BLOOD Neuts-55.3 ___ Monos-4.5 Eos-2.8 
Baso-1.5
___ 10:30PM BLOOD ___ PTT-31.3 ___
___ 07:10AM BLOOD Glucose-134* UreaN-9 Creat-0.6 Na-141 
K-3.6 Cl-109* HCO3-26 AnGap-10
___ 10:30PM BLOOD Glucose-99 UreaN-12 Creat-0.7 Na-140 
K-3.6 Cl-103 HCO3-28 AnGap-13
___ 07:10AM BLOOD CK(CPK)-73
___ 07:10AM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 10:30PM BLOOD cTropnT-<0.01
___:10AM BLOOD Calcium-8.6 Phos-3.6 Mg-2.0
___ 11:09PM BLOOD D-Dimer-294
___ 10:45PM BLOOD K-3.6
___ 12:05AM URINE Color-Yellow Appear-Clear Sp ___
___ 12:05AM URINE Blood-TR Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 12:05AM URINE ___ Bacteri-NONE Yeast-NONE 
___ 12:05 am URINE     Site: NOT SPECIFIED

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

Cardiology Report ECG Study Date of ___  10:37:48 ___ 
  
Sinus rhythm. Leftward axis. Late R wave progression. Low 
precordial voltage. Since the previous tracing of ___ there 
is no significant change. 
  
Read by: ___. 
 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
68 188 74 402/416 60 -21 50 
 
___ CXR
 
CHEST, FRONTAL AND LATERAL VIEWS: The lungs are clear and well 
expanded.  
There is no pneumothorax. Heart size, mediastinal and hilar 
contours are 
normal. Osseous structures are unremarkable. 
  
IMPRESSION: Normal chest radiograph. 

Stress Echo ___:  
The patient exercised for 6 minutes 47 seconds according to a 
___ treadmill protocol ___ METS) reaching a peak heart rate 
of 162 bpm and a peak blood pressure of 184/86 mmHg. The test 
was stopped because of fatigue. This level of exercise 
represents an average exercise tolerance for age. In response to 
stress, the ECG showed no ST-T wave changes (see exercise report 
for details). There is resting mild systolic hypertension with 
normal blood pressure and heart rate responses to stress.  
Resting images were acquired at a heart rate of 74 bpm and a 
blood pressure of 146/90 mmHg. These demonstrated normal 
regional and global left ventricular systolic function. Right 
ventricular free wall motion is normal. Doppler demonstrated 
mild mitral regurgitation with no aortic stenosis, aortic 
regurgitation or significant resting LVOT gradient.  
Echo images were acquired within 41 seconds after peak stress at 
heart rates of 152 - 110 bpm. These demonstrated appropriate 
augmentation of all left ventricular segments. There was 
augmentation of right ventricular free wall motion.  
IMPRESSION: Average functional exercise capacity. No ECG or 2D 
echocardiographic evidence of inducible ischemia to achieved 
workload. Resting mild systolic hypertension with normal 
hemodynamic response to exercise. Mild mitral regurgitation at 
rest.  
 
Brief Hospital Course:
This is a ___ yo F with a history of migraines, atypical chest 
pain, and syncope who presents with syncope.  
.  
# Syncope/Chest pain: Long history of the same with negative 
work up in the past. Clear vasovagal symptoms this time with 
appropriate clinical story for mild dehydration. Very unlikely 
to be cardiac with normal EKG and enzymes on admission, and 
negative stress echo less than 1 week ago. Palpitations slightly 
concerning for arrythmogenic cause, however kept on telemetry 
overnight without any events. Was given IVF's and discharged 
less than 12 hours after admission to f/u with PCP, consider ___ 
monitor as outpt. Her PCP was emailed about her admission. 
.
No further issues this admission.
 
Medications on Admission:
OMEPRAZOLE - 20 mg Capsule, Delayed Release(E.C.) - 1 Capsule(s) 
 
by mouth daily  
 
Medications - OTC  
ACETAMINOPHEN - 500 mg Tablet - 2 Tablet(s) by mouth up to twice 
 
each day as needed for tension headaches do not take more than 8 
 
tablets in 24 hours  
ASPIRIN - (OTC) - 81 mg Tablet - 1 Tablet(s) by mouth daily  

 
Discharge Medications:
1. Acetaminophen 500 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
2. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses:
Syncope (fainting)
Non-cardiac chest pain (not related to your heart)

Secondary Diagnoses:
Migraine
GERD (acid reflux)

 
Discharge Condition:
Mental Status: Alert and oriented to person, place, time and 
purpose
Ambulatory Status:  Ambulates independantly
Vital Signs:  Normal, at baseline

 
Discharge Instructions:
You were admitted after you felt dizzy which was likely from 
dehydration or something called vasovagal (low blood pressure 
for a short period of time that goes away on its own).   All of 
your labs and your EKG which looks at your heart were normal.

No medication changes were made.  You should continue all your 
home medications as previously directed.

It was a pleasure meeting you and participating in your care.
 
Followup Instructions:
___